US05489586
A solution of 2-(4,5-dihydro-1H-imidazol-2-yl)benzenethiol (1.00 g, 5.62 mmol) [Hegen, H., Fleig, H. Justus Liebigs Ann. Chem. 11:1994 (1975)] and chloromethyl acetate (610 mg, 5.62 mmol) in 15 mL of methanol is heated at reflux for 90 minutes. The reaction is cooled to room temperature and filtered. The filtrate is concentrated to dryness and the residue dissolved in hot chloroform. After several hours the resulting precipitate is collected and dried. The mother liquor affords a second crop of crystals giving 3-(2-aminoethylamino)benzo[b]thiophene-2-carboxylic acid methyl ester hydrochloride in an overall yield of 61%, mp 219°-220° C.

reactant | 2-(4,5-dihydro-1H-imidazol-2-yl)benzenethiol | 5.62 mmol, 1.00 g | N1C(=NCC1)C1=C(C=CC=C1)S | C9H10N2S
reactant | chloromethyl acetate | 5.62 mmol, 610 mg | C(C)(=O)OCCl | C3H5ClO2
solvent | methanol | 15 mL | CO | CH4O
product | 3-(2-aminoethylamino)benzo[b]thiophene-2-carboxylic acid methyl ester hydrochloride | yield of 61% | Cl.COC(=O)C1=C(C2=C(S1)C=CC=C2)NCCN | InChI=1S/C12H14N2O2S.ClH/c1-16-12(15)11-10(14-7-6-13)8-4-2-3-5-9(8)17-11;/h2-5,14H,6-7,13H2,1H3;1H
